US07915281B2
Triethylamine (3.12 mL, 22.4 mmol) was added to a slurry of N-(2-chloro-3-nitroquinolin-4-yl)ethane-1,2-diamine (3.00 g, 11.2 mmol) in dichloromethane (80 mL). A solution of di-tert-butyl carbonate (2.95 g, 13.5 mmol) in dichloromethane (20 mL) was added over 5 minutes to the slurry. The solution was stirred at room temperature for three hours and then was partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The aqueous layer was extracted with dichloromethane. The organic layers were combined and washed with brine, dried over magnesium sulfate, filtered, and concentrated to an orange solid. The crude product was purified by flash chromatography (silica gel, 3:1 hexanes/ethyl acetate as the eluent) to afford tert-butyl 2-[(2-chloro-3-nitroquinolin-4-yl)amino]ethylcarbamate (3.70 g) as a bright yellow solid.

reactant | Triethylamine | 22.4 mmol, 3.12 mL | C(C)N(CC)CC | C6H15N
reactant | N-(2-chloro-3-nitroquinolin-4-yl)ethane-1,2-diamine | 11.2 mmol, 3.00 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCCN | C11H11ClN4O2
reactant | di-tert-butyl carbonate | 13.5 mmol, 2.95 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl 2-[(2-chloro-3-nitroquinolin-4-yl)amino]ethylcarbamate | 3.70 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCCNC(OC(C)(C)C)=O | C16H19ClN4O4
